US04885300
1-(1,2-Epoxy-3-propanyl)-4-[1-(diphenylmethylpiperazin-4-yl]-2-hydroxy-3-propanylthio]-1H-pyrazolo[3,4-d]pyrimidine
Triethylamine (0.7 mL, 5 mmol) and 1-(1-chloro-2-hydroxy-3-propanyl)-4-(diphenylmethyl)piperazine (1.72 g, 5 mmol) was added to 4-mercapto-1H-pyrazolo[3,4-d]pyrimidine (0.78 g, 5 mmol) in DMF (10 mL) in portions over a 5 min period. The solution was stirred under nitrogen for 4 days and DMF was removed under vacuum (50° C., 0.5 mmHg). The residue was dissolved in methylene chloride and the solution was washed with water (1×100 mL), saturated brine (1×100 mL) and the organic layer was filtered through celite and evaporated to give a foam (1.47 g). The crude material was eluted through silica gel using 10% methanol: methylene chloride which was extracted with methylene chloride and the organic layer was dried over Na2SO4 and evaporated and dried in vacuo to give the title compound, 0.36 g (13.9%), mp 87°-92° C. 400 MHz 1H NMR (CDCl3) δ: 8.70 (s, 1H), 8.1 (s, 1H), 7.4 (m, 5H), 7.15 (m, 5H), 4.25 (s, 1H), 4.11 (m, 1H), 3.55 (m, 2H), 3.7-2.4 (m, 15H). DCI/MS (M+1) 517.

reactant | Triethylamine | 5 mmol, 0.7 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(1-chloro-2-hydroxy-3-propanyl)-4-(diphenylmethyl)piperazine | 5 mmol, 1.72 g | ClCC(CN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)O | C20H25ClN2O
reactant | 4-mercapto-1H-pyrazolo[3,4-d]pyrimidine | 5 mmol, 0.78 g | SC1=C2C(=NC=N1)NN=C2 | C5H4N4S
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(1,2-Epoxy-3-propanyl)-4-[1-(diphenylmethylpiperazin-4-yl]-2-hydroxy-3-propanylthio]-1H-pyrazolo[3,4-d]pyrimidine | 1.47 g | O1CC1CN1N=CC=2C1=NC=NC2SCC(CN2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)O | C28H32N6O2S
